US08198456B2
10.56 g (26.17 mmol) 5-(3,5-dicyano-1,2,6-trimethyl-1,4-dihydro-pyridin-4-yl)-3-methyl-indazole-1-carboxylic acid tert-butyl ester, from Synthetic Example 16, were dissolved in 70 mL dioxane. 350 mL of a 4 M solution of hydrochloric acid in dioxane was added. The mixture was stirred for 2 hours and then concentrated under vacuum. The residue was dissolved in ethyl acetate, washed with saturated sodium hydrogen carbonate solution and dried over magnesium sulfate. Purification with column chromatography gave 1,4-dihydro-1,2,6-trimethyl-4-(3-methyl-1H-indazol-5-yl)-3,5-pyridinedicarbonitrile (5.46 g, 68.8%). (Cpd. No. 306, Table 7). 1H-NMR (DMSO-D6): δ=12.67 (br s, 1H), 7.50 (s, 1H), 7.48 (d, 1H), 7.26 (d, 1H), 4.44 (s, 1H), 3.21 (s, 3H), 2.48 (s, 3H), 2.24 (s, 6H) ppm. MS (ES+): 304.45 (M++1, 100%).

reactant | 5-(3,5-dicyano-1,2,6-trimethyl-1,4-dihydro-pyridin-4-yl)-3-methyl-indazole-1-carboxylic acid tert-butyl ester | 26.17 mmol, 10.56 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)C1C(=C(N(C(=C1C#N)C)C)C)C#N)C | C23H25N5O2
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 70 mL | O1CCOCC1 | C4H8O2
product | 1,4-dihydro-1,2,6-trimethyl-4-(3-methyl-1H-indazol-5-yl)-3,5-pyridinedicarbonitrile | 5.46 g, 68.8% | CN1C(=C(C(C(=C1C)C#N)C=1C=C2C(=NNC2=CC1)C)C#N)C | C18H17N5
